US05405815
In this experiment, an isoprene-butadiene copolymer rubber was prepared using an alcohol modified neodymium catalyst system. In this procedure, a one gallon (3.78 liter) reactor was charged with 1,214 grams of hexane containing 81.3 grams of butadiene and 558.43 grams of 1.23 molar diisobutylaluminum hydride (DIBAH) in hexane, (i.e., 25% weight percent DIBAH). The reactor was maintained at 20° C. by cooling. N-butanol (11.16 grams) was added with stirring. After stirring for thirty minutes, 107.5 grams of 10.1% neodymium solution (neodymium neodecanoate) diluted with 160 grams of dry hexane, was charged to the reactor. The solution was stirred for another thirty minutes after which time 18.2 grams of allyl bromide was added. The cooling was stopped and the solution was allowed to warmup. A delayed exothermic reaction was noted. After twenty minutes, bring the solution temperatures to about 10° C. above ambient temperature. When the temperature ultimately dropped, the catalyst solution was aged by heating at 65° C. for ninety minutes. The catalyst prepared had a [butanol-DIBAH]Nd-allyl bromide-butadiene molar ratio of [2-13]-1-2-20, respectively, and a concentration of 0.025 molarity with respect to the neodymium.

reactant | butadiene | C=CC=C | C4H6
reactant | diisobutylaluminum hydride | 1.23 molar, 558.43 grams | [H-].C(C(C)C)[Al+]CC(C)C
reactant | neodymium | 107.5 grams | [Nd] | Nd
reactant | allyl bromide | 18.2 grams | C(C=C)Br | C3H5Br
catalyst | neodymium | [Nd] | Nd
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 160 grams | CCCCCC | C6H14
solvent | hexane | 1,214 grams | CCCCCC | C6H14
product | isoprene butadiene | Yield=87% | C=CC(C)=C.C=CC=C | InChI=1S/C5H8.C4H6/c1-4-5(2)3;1-3-4-2/h4H,1-2H2,3H3;3-4H,1-2H2
